US04810706
0.1 Moles of 1-[3-(1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]-4-(3-phenylthio-propyl)piperazine hydrochloride was dissolved in 200 ml demineralized water and maintained at 20° C. 120 ml hydrogen peroxide in 250 ml water was added dropwise. The mixture was stirred for four hours at room temperature. Completion of the reaction was checked by TLC using a mixture of 80/20/1 CH2Cl2 /methanol/NH4OH as eluent. When the reaction was completed, the reactive mixture was alkalinized, extracted with methylene chloride, washed with water, dried, and the solvent evaporated under vacuum to give the free base form of 1-[3-(1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]-4-(3-phenylsulfinylpropyl)piperazine. The dihydrochloride salt was prepared in the manner indicated in Example III, m.p. 260°-265° C.

reactant | 1-[3-(1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]-4-(3-phenylthio-propyl)piperazine hydrochloride | 0.1 Moles | Cl.CN1C(N(C=2N=CN(C2C1=O)CC(CN1CCN(CC1)CCCSC1=CC=CC=C1)O)C)=O
reactant | hydrogen peroxide | 120 ml | OO | H2O2
solvent | water | 250 ml | O | H2O
solvent | CH2Cl2 methanol NH4OH | C(Cl)Cl.CO.[NH4+].[OH-]
product | 1-[3-(1,3-dimethyl-3,7-dihydro-1H-purine-2,6-dion-7-yl)-2-hydroxypropyl]-4-(3-phenylsulfinylpropyl)piperazine | CN1C(N(C=2N=CN(C2C1=O)CC(CN1CCN(CC1)CCCS(=O)C1=CC=CC=C1)O)C)=O | C23H32N6O4S
